US07816522B2
(29a) (3-fluoropyridin-2-yl)hydrazine
To a solution of 9.59 g of 2-chloro-3-fluoropyridine in 6 ml of ethanol there was added 6 ml of hydrazine monohydrate, and the mixture was stirred at 60° C. for 3 days. The solution was adsorbed onto 50 g of NH silica gel and purified by NH silica gel column chromatography (ethyl acetate-heptane) to give the title compound (403 mg) as a yellow solid.

reactant | 2-chloro-3-fluoropyridine | 9.59 g | ClC1=NC=CC=C1F | C5H3ClFN
reactant | hydrazine monohydrate | 6 ml | O.NN
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | (3-fluoropyridin-2-yl)hydrazine | 403 mg | FC=1C(=NC=CC1)NN | C5H6FN3
